US06133279
In 5 ml of a saturated solution of hydrogen chloride in methanol was dissolved 0.20 g of 4,6-di-t-butyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran-2-carboxylic acid at room temperature and the mixture was stirred for 3 hours, then the reaction solution was concentrated. The residue was purified on a short column of silica gel eluting with n-hexane containing 16% ethyl acetate to give 0.15 g of 4,6-di-t-butyl-5-hydroxy-2-methoxycarbonyl-2-methyl-2,3-dihydrobenzofuran as a colorless powder.

reactant | 4,6-di-t-butyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran-2-carboxylic acid | 0.20 g | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(C(=O)O)C)C(C)(C)C)O[Si](C)(C)C | C21H34O4Si
reactant | methanol | CO | CH4O
solvent | hydrogen chloride | Cl | ClH
product | 4,6-di-t-butyl-5-hydroxy-2-methoxycarbonyl-2-methyl-2,3-dihydrobenzofuran | 0.15 g | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(C)C(=O)OC)C(C)(C)C)O | C19H28O4
